US04254267
(C) (±)-3-(2-Pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid
Potassium hydroxide (3.29 g) is dissolved in 250 ml of methanol and 8.85 g of 4-(2-pyridyl)-4-oxo-2-butenoic acid is added. Hydrazine (1.6 g) is then added and the solution is heated at reflux temperature for 5 hours. Solvent is removed in vacuo and the residue is dissolved in 50 ml of water and treated with 3.0 g of acetic acid yielding the title compound.

reactant | Potassium hydroxide | 3.29 g | [OH-].[K+]
reactant | 4-(2-pyridyl)-4-oxo-2-butenoic acid | 8.85 g | N1=C(C=CC=C1)C(C=CC(=O)O)=O | C9H7NO3
reactant | Hydrazine | 1.6 g | NN | H4N2
solvent | methanol | 250 ml | CO | CH4O
product | (±)-3-(2-Pyridyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | N1=C(C=CC=C1)C1=NNC(C1)C(=O)O | C9H9N3O2
